US06617299B1
To a solution of 80 mL n-BuLi in hexanes (2.5 M, 0.2 mol) was added 2-pyridylbromide (31.6 gram 0.2 mol) in 100 mL of ether at −80° C.-−60° C. The suspension was stirred for 1 h, and the temperature was allowed to rise to −45° C. Subsequently 2-pyridinecarboxaldehyde (21.42 gram 0.2 mol) in of ether (100 mL) was added during 30 min. To the thick slurry was added additional THF (200 mL) and the mixture was stirred for 1.5 h at −40° C.-−30° C. and then the mixture was allowed to warm up to −10° C. The mixture was poured into water (200 ml) and acidified with 2 M HCl to pH=1-2 and the layers were separated. The aqueous layer was extracted twice with ether (100 mL) and neutralized with saturated Na2CO3(aq) to pH=8. The aqueous layer was extracted CH2Cl2 (3×100 ml). Drying (Na2SO4) and evaporation of the solvent yielded a brown oil. Vacuum distillation (118° C., 0.2 mmHg) afforded di(2-pyridinyl)methanol (19.42 gram, 104.4 mmol, 52%) as a yellow oil. 1H-NMR (200 MHz. CDCl3) δ 5.88 (s, 2H), 7.11-7.19 (m, 2H), 7.47-7.67 (m, 4H). 8.50-8.54 (m, 2H). 13C-NMR (50.3 MHz, CDCl3) δ 75.0 (d), 121.0 (d), 122.5 (d), 136.8 (d), 1448.1 (d), 160.7 (s).

reactant | n-BuLi | 80 mL | [Li]CCCC
reactant | 2-pyridylbromide | 0.2 mol, 31.6 gram | N1=C(C=CC=C1)Br | C5H4BrN
reactant | 2-pyridinecarboxaldehyde | 0.2 mol, 21.42 gram | N1=C(C=CC=C1)C=O | C6H5NO
reactant | HCl | 2 M | Cl | ClH
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | di(2-pyridinyl)methanol | 104.4 mmol, 19.42 gram, 52% | N1=C(C=CC=C1)C(O)C1=NC=CC=C1 | C11H10N2O
